US20010021718A1
(3R)6-Cyclohexyl-N-hydroxy-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide
A solution of (3R)-6-cyclohexyl-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 103) (200 mg, 0.43 mmol) in anhydrous tetrahydrofuran (5 ml) was treated with 1,1′-carbonyidiimidazole (77 mg, 0.48 mmol) and stirred under a nitrogen atmosphere for 30 minutes. O-(Trimethylsilyl)hydroxylamine (160 μl, 1.30 mmol) was added and the mixture was stirred for 18 hours. The mixture was then treated with methanol (4 ml) and stirred at room temperature for 1 hour. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with 90:10:1 (dichloromethane:methanol:ammonia) to afford a colourless oil which began to crystallise once a little methanol and dichloromethane were added. The solid was triturated with dichloromethane and dried under reduced pressure to afford the title compound as a solid (49 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.43 mmol, 200 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)CC=1NC=CN1 | C18H26N4O3
reactant | 1,1′-carbonyidiimidazole | 0.48 mmol, 77 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | O-(Trimethylsilyl)hydroxylamine | 1.30 mmol, 160 μl | C[Si](ON)(C)C | C3H11NOSi
reactant | methanol | 4 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (3R)6-Cyclohexyl-N-hydroxy-3-[3-(1H-imidazol-2-ylmethyl)-1,2,4-oxadiazol-5-yl]hexanamide | 49 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)CC=1NC=CN1 | C18H27N5O3
